US07601844B2
(R)-1-(4-(4-Chlorophenyl)piperidin-1-yl)-3-methyl-2-(3-phenyl-1H-1,2,4-triazol-5-ylamino)butan-1-one (40 mg, 0.09 mmol) was dissolved in THF (0.5 mL) and then treated with MeNHNH2 (10 μL, excess). The reaction was stirred at rt. overnight. After this time, the THF was removed in vacuo and the remains were taken up in MeOH and then purified by preparative HPLC to give (R)-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-2-(1-methyl-3-phenyl-1H-1,2,4-triazol-5-ylamino)butan-1-one (18 mg, 47%) as a 90/10 mixture of N1—CH3/N2—CH3 isomers. MS found: 452 (M+H).

reactant | (R)-1-(4-(4-Chlorophenyl)piperidin-1-yl)-3-methyl-2-(3-phenyl-1H-1,2,4-triazol-5-ylamino)butan-1-one | 0.09 mmol, 40 mg | ClC1=CC=C(C=C1)C1CCN(CC1)C([C@@H](C(C)C)NC1=NC(=NN1)C1=CC=CC=C1)=O | C24H28ClN5O
reactant | MeNHNH2 | 10 μL | CNN | CH6N2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (R)-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-2-(1-methyl-3-phenyl-1H-1,2,4-triazol-5-ylamino)butan-1-one | 18 mg, 47% | ClC1=CC=C(C=C1)C1CCN(CC1)C([C@@H](C(C)C)NC1=NC(=NN1C)C1=CC=CC=C1)=O | C25H30ClN5O
